US04296114
4-(4-Chlorophenyl)-3,4-dihydro-3-oxo-2-quinoxaline carboxamide
1-(4-Chlorophenyl)-3-cyano-1,2-dihydroquinoxalin-2-one (6.6 g) was heated at 110° C. for 1 hour with polyphosphoric acid (25 g). The mixture was diluted with water and extracted with chloroform. Evaporation of the solvent and recrystallisation of the residue from ethanol gave the title compound (3.8 g) mp 293°-297° (decomp).

reactant | 1-(4-Chlorophenyl)-3-cyano-1,2-dihydroquinoxalin-2-one | 6.6 g | ClC1=CC=C(C=C1)N1C(C(=NC2=CC=CC=C12)C#N)=O | C15H8ClN3O
reactant | water | O | H2O
product | 4-(4-Chlorophenyl)-3,4-dihydro-3-oxo-2-quinoxaline carboxamide | 3.8 g | ClC1=CC=C(C=C1)N1C(C(=NC2=CC=CC=C12)C(=O)N)=O | C15H10ClN3O2
